US07531560B2
3-[4-(5-Ethyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-benzoic acid (prepared by hydrolysis of the methyl ester which was prepared by the method described in Example 2, using the 5-ethylpyrazole intermediate) (780 mg, 2.09 mmol), DPPA (0.52 mL, 2.4 mmol), and Et3N (0.37 mL, 2.7 mmol) were suspended in dry toluene (10 mL) under N2 and stirred for 1 h after which time a clear solution had formed. The reaction mixture was placed into a 100° C. pre-heated oil bath and stirred under N2 for 75 min. Then, benzyl alcohol (1 mL) was added and the reaction stirred at 110° C. for 6 h. The reaction was cooled, concentrated, and purified by chromatography (0 to 75% EtOAc in hexanes) to give the {3-[4-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-phenyl}-carbamic acid benzyl ester as a white foam (695 mg, 70%).

reactant | 3-[4-(5-Ethyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-benzoic acid | C(C)C1=C(C=NN1C1=CC=CC=C1)C=1N=CN(C1)C=1C=C(C(=O)O)C=CC1C | C22H20N4O2
reactant | 5-ethylpyrazole | C(C)C1=CC=NN1 | C5H8N2
reactant | DPPA | 2.4 mmol, 0.52 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 2.7 mmol, 0.37 mL | CCN(CC)CC | C6H15N
reactant | benzyl alcohol | 1 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | {3-[4-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-imidazol-1-yl]-4-methyl-phenyl}-carbamic acid benzyl ester | 695 mg, 70% | C(C1=CC=CC=C1)OC(NC1=CC(=C(C=C1)C)N1C=NC(=C1)C=1C=NN(C1CC)C1=CC=CC=C1)=O | C29H27N5O2
